* C:\Users\ruseler\Documents\GitHub\AOS-QUIZES\TE07\LTspice\FETs\FET07op.asc
Rg g N003 {Rg}
Vdd N001 0 {Vdd}
Vgg N003 0 {Vgg}
Rd N001 N002 {Rd}
M1 N002 g 0 0 MOSFET
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\ruseler\Documents\LTspiceXVII\lib\cmp\standard.mos
.op
.model MOSFET pmos(Kp=1m Vto=-2)
.param Vdd=-15 Vgg=-1 Rd=270 Rg=6.8Meg
.backanno
.end
